US08471005B2
2-(4-{3-Methoxy-4-[7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-phenyl}-piperidin-1-yl)-1-piperazin-1-yl-ethanone
Into an 8-dram vial Trifluoro-methanesulfonic acid 7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl ester (170 mg, 0.46 mmol), 4-{2-[4-(4-Amino-3-methoxy-phenyl)-piperidin-1-yl]-acetyl}-piperazine-1-carboxylic acid tert-butyl ester (223 mg, 0.516 mmol), N,N-Diisopropylethylamine (250 uL, 1.4 mmol) and 1-Methoxy-2-propanol (2 mL, 20 mmol). The reaction mixture was heated at 100° C. overnight. After 18 h, the mixture was cooled to RT and the product was purified by flash chromatography (ISCO, 40 g column, EtOAC-MeOH 95:5). The product was obtained as a syrup (156 mg, 52%). MS: 656 (M+H). The product was subjected to the BOC deprotection step. 4-[2-(4-{3-Methoxy-4-[7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-phenyl}-piperidin-1-yl)-acetyl]-piperazine-1-carboxylic acid tert-butyl ester (150 mg, 0.23 mmol) was treated with trifluoroacetic acid (0.5 mL, 6 mmol) in methylene chloride (10 mL, 200 mmol). The mixture was stirred at RT. After 3 days, solvent was removed and the product, 2-(4-{3-Methoxy-4-[7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-phenyl}-piperidin-1-yl)-1-piperazin-1-yl-ethanone, was purified by reverse phase liquid chromatography (Gilson) as a brown solid (61 mg, 48%, —85% pure). LCMS (E/I+) 556 (M+H). NMR 1H (DMSO-d6)-9.6 (br s, 1H), 9.02 (br s, 2H), 8.95 (s, 1H), 7.07 (d, 1H, J=8.27 Hz), 7.82 (d, 1H, J=6.44 Hz), 7.64 (s, 1H), 7.46 (m, 1H), 7.21 (d, 1H, J=8.37 Hz), 7.10 (m, 1H), 6.96 (m, 2H), 6.90 (s, 1H), 6.71 (d, 1H, J=8.34 Hz), 4.35 (m, 2H), 4.2-3.0 (series of m and s along with water peak, 18H), 2.84 (m, 1H), 2.08-1.99 (m, 4H).

reactant | 4-[2-(4-{3-Methoxy-4-[7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-phenyl}-piperidin-1-yl)-acetyl]-piperazine-1-carboxylic acid tert-butyl ester | 0.23 mmol, 150 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C(CN1CCC(CC1)C1=CC(=C(C=C1)NC1=NN2C(C=N1)=CC=C2C2=C(C=CC=C2)OC)OC)=O | C36H45N7O5
reactant | trifluoroacetic acid | 6 mmol, 0.5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | methylene chloride | 200 mmol, 10 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-{3-Methoxy-4-[7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-phenyl}-piperidin-1-yl)-1-piperazin-1-yl-ethanone | COC=1C=C(C=CC1NC1=NN2C(C=N1)=CC=C2C2=C(C=CC=C2)OC)C2CCN(CC2)CC(=O)N2CCNCC2 | C31H37N7O3
